US08378107B2
Step 2: (2-Chloro-quinolin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester
To (2-chloro-quinolin-3-ylmethyl)-ethyl-amine (1.35 g, 6.1 mmol) in CH2Cl2 (20 mL) was added di-tert-butyl dicarbonate (0.153 g, 0.70 mmol), and the reaction was stirred until no starting material remained. The mixture was partitioned between CH2Cl2 and saturated aqueous NaHCO3, and the organic layer was separated, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (2-chloro-quinolin-3-ylmethyl)-ethyl-amine | 6.1 mmol, 1.35 g | ClC1=NC2=CC=CC=C2C=C1CNCC | C12H13ClN2
reactant | di-tert-butyl dicarbonate | 0.70 mmol, 0.153 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (2-Chloro-quinolin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC)CC=1C(=NC2=CC=CC=C2C1)Cl)=O | C17H21ClN2O2
